US06489347B1
4-(4-Fluorophenyl)-3-carboxyethylpiperidine
4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one (12.0 g, 0.045 mol, trans/cis-ratio˜1:1) was added in one portion to a solution of trimethyloxonium fluoroborate (12.0 g, 0.081 mol) in dichloromethane (80 ml) and the resulting solution stirred, at 14-18° C., for 60 hours under an argon atmosphere. The solvent was removed in vacuo, and then the residue was dissolved in absolute ethanol (100 ml), heated to 45° C. and treated with sodium borohydride (10.0 g, 0.26 mol) in 1.0 g portions, allowing the mixture to boil under reflux. Most of the solvent was evaporated and the residue quenched with water (60 ml) followed by concentrated hydrochloric acid. After neutralization with 10% sodium bicarbonate solution the products were extracted with dichloromethane (150 and 50 ml). The extracts were dried with anhydrous sodium sulphate, filtered, and evaporated to afford the title compound as a cis/trans mixture (1:1). Yield 75%. A portion of the product was purified by column chromatography (silica gel, eluted with ethyl acetate-triethylamine, 98:2).

reactant | 4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one | 0.045 mol, 12.0 g | FC1=CC=C(C=C1)C1C(CNC(C1)=O)CCC(=O)O | C14H16FNO3
reactant | trimethyloxonium fluoroborate | 0.081 mol, 12.0 g | F[B-](F)(F)F.C[O+](C)C
reactant | sodium borohydride | 0.26 mol, 10.0 g | [BH4-].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(4-Fluorophenyl)-3-carboxyethylpiperidine | Yield 75% | FC1=CC=C(C=C1)C1C(CNCC1)CCC(=O)O | C14H18FNO2
